US05559105
b) Methyl 3,3-Diphenyl-2-(3,4-methylenedioxybenzyl)prop-2-enoate
Methyl (2RS)-3,3-diphenyl-3-hydroxy-2-(3,4-methylenedioxybenzyl)propanoate (0.309 g, 0.79 mmol) was dissolved in methanolic HCl (60 ml) (prepared by passing HCl gas through MeOH at 0° C.). After 4 days at ambient temperature the MeOH was removed by evaporation and replaced with fresh methanolic HCl. After a further 2 days the methanol was evaporated. The residue was recrystallized (MeOH) to give the title compound as a colorless solid (69 mg, 23%).

reactant | Methyl (2RS)-3,3-diphenyl-3-hydroxy-2-(3,4-methylenedioxybenzyl)propanoate | 0.79 mmol, 0.309 g | C1(=CC=CC=C1)C(C(C(=O)OC)CC1=CC2=C(C=C1)OCO2)(O)C2=CC=CC=C2 | C24H22O5
solvent | HCl | 60 ml | Cl | ClH
product | Methyl 3,3-Diphenyl-2-(3,4-methylenedioxybenzyl)prop-2-enoate | 69 mg, 23% | C1(=CC=CC=C1)C(=C(C(=O)OC)CC1=CC2=C(C=C1)OCO2)C2=CC=CC=C2 | C24H20O4
